US06207686B1
A solution of (2RS,3SR)-3-hydroxy-2-(3,4-methylenedioxyphenyl)-3-(2-n-butyl-1-tert-butoxycarbonyl-1H-imidazol-4-yl)propionic acid (250 mg) in 4N hydrogen chloride-ethyl acetate solution (3 ml) was stirred at ambient temperature for 18 hours. The solution was evaporated in vacuo and then the residue was solidified with ether. Resulting powder was collected by filtration and dried to afford (2RS,3SR)-3-hydroxy-2-(3,4-methylenedioxyphenyl)-3-(2-n-butyl-1H-imidazol-4-yl)propionic acid hydrochloride (65 mg).

reactant | (2RS,3SR)-3-hydroxy-2-(3,4-methylenedioxyphenyl)-3-(2-n-butyl-1-tert-butoxycarbonyl-1H-imidazol-4-yl)propionic acid | 250 mg | OC(C(C(=O)O)C1=CC2=C(C=C1)OCO2)C=2N=C(N(C2)C(=O)OC(C)(C)C)CCCC | C22H28N2O7
reactant | hydrogen chloride-ethyl acetate | 4N, 3 ml | C(C)(=O)OCC.Cl
product | (2RS,3SR)-3-hydroxy-2-(3,4-methylenedioxyphenyl)-3-(2-n-butyl-1H-imidazol-4-yl)propionic acid hydrochloride | 65 mg | Cl.OC(C(C(=O)O)C1=CC2=C(C=C1)OCO2)C=2N=C(NC2)CCCC | InChI=1S/C17H20N2O5.ClH/c1-2-3-4-14-18-8-11(19-14)16(20)15(17(21)22)10-5-6-12-13(7-10)24-9-23-12;/h5-8,15-16,20H,2-4,9H2,1H3,(H,18,19)(H,21,22);1H
